US04271164
A suspension of 3.0 g of 6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine and 1.8 g of 2-furoic acid in 50 ml of chloroform is boiled on a steam bath until the distilling vapors reach a temperature of 61° C. The mixture is cooled to about 40° C. and 2.6 g of carbonyldiimidazole is added cautiously. Gas is evolved. When gas evolution has ceased, the resulting solution is heated at reflux for 30 hours. The cooled reaction mixture is chromatographed directly on a column of 150 g of silica gel. The crude product is eluted with a 99/1 chloroform/methanol mixture. This is purified by trituration with ether and recrystallization of the resulting solid from a chloroform/ether mixture. N-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-yl]-2-furancarboxamide is obtained as yellow crystals, mp 228°-230.5° C.

reactant | 6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine | 3.0 g | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1N | C14H10Cl2N4
reactant | 2-furoic acid | 1.8 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | carbonyldiimidazole | 2.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-yl]-2-furancarboxamide | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1NC(=O)C=1OC=CC1 | C19H12Cl2N4O2
